US04966891
5'-Deoxy-5-fluorocytidine (245 mg) was dissolved in dry pyridine (5 ml). To the solution was added benzoyl chloride (130 μl) with stirring at 0° C. The reaction mixture was stirred for 1 hour at 0° C. After removal of the solvent under reduced pressure, the residue was purified by silica gel column chromatography (dichloromethane - methanol) followed by recrystallization from ethyl acetate to give colorless crystals of 3'-O-benzoyl-5'-deoxy-5-fluorocytidine (51 mg). mp 127°~129° C.; MS 350 (MH+).

reactant | 5'-Deoxy-5-fluorocytidine | 245 mg | FC=1C(=NC(N([C@H]2[C@H](O)[C@H](O)[C@@H](C)O2)C1)=O)N | C9H12FN3O4
reactant | benzoyl chloride | 130 μl | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 3'-O-benzoyl-5'-deoxy-5-fluorocytidine | 51 mg | C(C1=CC=CC=C1)(=O)O[C@H]1[C@H]([C@@H](O[C@@H]1C)N1C(=O)N=C(N)C(=C1)F)O | C16H16FN3O5
